US07256198B2
Step 5: 8′-{[(2S)-2-(Phenoxymethyl)pyrrolidin-1-yl]sulfonyl}-3′,4′-dihydro-2′H-spiro[1,3-dioxane-2,10′-pyrimido[1,2-a]indole]
1′-(3 -Aminopropyl)-5′-{[(2S)-2-(phenoxymethyl)pyrrolidin-1-yl]sulfonyl}spiro[1,3-dioxane-2,3′-indol]-2′(1′H)-one (0.98 g, 1.95 mmol) was taken up in 2M EtOH.NH3 (100 mL) poured into a steel pressure bottle and heated at 135° C. for 20.5 hr. The mixture was cooled to room temperature and concentrated. The residue was washed with H2O (3×), brine (2×), dried over MgSO4, and filtered. The filtrate was flash chromatographed (Biotage KP silica gel, CH2Cl2/CH3OH/NH4OH (98.5/1.0/0.5)) to give the title compound as a white solid (0.73 g, 77% yield). NMR (400 MHz, DMSO-d6): consistent. MS: (APCI+) m/z 483 [M+H]. Opt. Rotation: −169.0 (calculated) at 25° C. in CHCl3 (1% concentration) at 589 nM.

reactant | 1′-(3 -Aminopropyl)-5′-{[(2S)-2-(phenoxymethyl)pyrrolidin-1-yl]sulfonyl}spiro[1,3-dioxane-2,3′-indol]-2′(1′H)-one | 1.95 mmol, 0.98 g | NCCCN1C(C2(C3=CC(=CC=C13)S(=O)(=O)N1[C@@H](CCC1)COC1=CC=CC=C1)OCCCO2)=O | C25H31N3O6S
reactant | NH3 | 100 mL | N | H3N
solvent | EtOH | 2M | CCO | C2H6O
product | 8′-{[(2S)-2-(Phenoxymethyl)pyrrolidin-1-yl]sulfonyl}-3′,4′-dihydro-2′H-spiro[1,3-dioxane-2,10′-pyrimido[1,2-a]indole] | 0.73 g, 77% yield | O(C1=CC=CC=C1)C[C@H]1N(CCC1)S(=O)(=O)C1=CC=2C3(C=4N(C2C=C1)CCCN4)OCCCO3 | C25H29N3O5S
